US06667316B1
Dimethylamine/methanol (2.0 M, 2.95 mL) was added to a stirred solution of 2-chloro-N-({2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}methyl)acetamide (1.0 g, 1.96 mmol) in tetrahydrofuran and the mixture was stirred at room temperature for 24 hours. The tetrahydrofuran was removed in vacuo and the residue was dissolved in methylene chloride (60 mL). The methylene chloride solution was washed with water (30 mL), brine (30 mL) and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was purified by chromatography (silica gel, methylene chloride:methanol 97.5:2.5) to give 2-(dimethylamino)-N-({2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}methyl)acetamide (0.6 g, 59%). To as stirred solution of the amine in ethyl acetate (10 mL) was added 1N hydrogen chloride in ether (4 mL). The resulting suspension was filtered and washed with ether to give 2-(dimethylamino)-N-({2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]1,3-dioxoisoindolin-4-yl}methyl)acetamide hydrochloride(0.55 g) as a white solid: mp 103-105° C.; 1H NMR (DMSO-d6) δ10.06 (s, 1H), 9.37 (m, 1H), 7.83-7.73 (m, 3H), 7.10 (s, 1H), 6.97-6.92 (m, 2H), 5.82-5.76 (dd, J=4.1, 10.2 Hz, 1H), 4.81 (d, J=5.6 Hz, 2H), 4.38-4.32 (dd, J=10.3, 14.1 Hz, 1H), 4.19-4.12 (dd, J=4.4, 14.4 Hz, 1H), 4.05-3.08 (m, 4H), 3.73 (s, 3H0, 3.02 (s, 3H), 2.82 (s, 6H0, 1.32 (t, J=6.9 Hz, 3H); 13C NMR (DMSO-d6) δ167.60, 167.20, 164.79, 148.88, 147.85, 137.84, 134.69, 133.36, 131.51, 129.59, 127.09, 122.14, 119.79, 112.41, 111.76, 63.84, 57.17, 55.49, 52.98, 47.29, 43.13, 41.09, 37.82, 14.67; Anal. Calcd. for C25H32N3O7SCl+0.56 H2O: C, 53.23; H, 5.92; N, 7.45, S, 5.68; Cl, 6.28. Found: C, 53.22; H, 5.87; N, 7.37; S, 5.64; Cl, 6.52.

reactant | Dimethylamine methanol | 2.0 M, 2.95 mL | CNC.CO
reactant | 2-chloro-N-({2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}methyl)acetamide | 1.96 mmol, 1.0 g | ClCC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O | C23H25ClN2O7S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(dimethylamino)-N-({2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}methyl)acetamide | 0.6 g, 59% | CN(CC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O)C | C25H31N3O7S
